US04207234
1-(α-Methoxycarbonyl-4-methoxybenzyl)-3-[2-[4-{3-methoxycarbonyl-3-(2,2,2-trifluoroacetamido)propoxy}phenyl]-2-methoxyiminoacetamido]-2-azetidinone (0.19 g.) was dissolved in acetone (2 ml.). 1 N-Sodium hydroxide aqueous solution (0.9 ml.) was added to the solution at ambient temperature, and the mixture was stirred for 5 minutes. The acetone was distilled off from the reaction mixture, and the remaining solution was adjusted to pH 3 with 10% hydrochloric acid. The separated oil material was isolated by decantation, washed with acetone and water, and then pulverized with acetonitrile to give 1-(α-carboxy-4-methoxybenzyl)-3-[2-{4-(3-amino-3-carboxypropoxy)phenyl}-2-methoxyiminoacetamido]-2-azetidinone (0.02 g.). Mp 170° to 176° C. (dec.).

reactant | 1-(α-Methoxycarbonyl-4-methoxybenzyl)-3-[2-[4-{3-methoxycarbonyl-3-(2,2,2-trifluoroacetamido)propoxy}phenyl]-2-methoxyiminoacetamido]-2-azetidinone | 0.19 g | COC(=O)C(C1=CC=C(C=C1)OC)N1C(C(C1)NC(C(=NOC)C1=CC=C(C=C1)OCCC(NC(C(F)(F)F)=O)C(=O)OC)=O)=O | C29H31F3N4O10
reactant | Sodium hydroxide | 0.9 ml | [OH-].[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 1-(α-carboxy-4-methoxybenzyl)-3-[2-{4-(3-amino-3-carboxypropoxy)phenyl}-2-methoxyiminoacetamido]-2-azetidinone | 0.02 g | C(=O)(O)C(C1=CC=C(C=C1)OC)N1C(C(C1)NC(C(=NOC)C1=CC=C(C=C1)OCCC(C(=O)O)N)=O)=O | C25H28N4O9
